US08242125B2
50-F. (±)-4-Chloro-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester
A solution of (±)-6-methyl-4-oxo-4,5,6,8-tetrahydro-3H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester, (7.5 g, 28.3 mmol), triphenylphosphine (14.8 g, 56.5 mmol) and carbon tetrachloride (8.2 mL, 85 mmol) in 1,2-DCE (100 mL) is heated at 80° C. for 6 h. At that time the solution is concentrated in vacuo and the residue is separated via FCC (5-60% EtOAc/heptane) to give the title compound. MS (ESI) m/z 284.1 (M+H).

reactant | (±)-6-methyl-4-oxo-4,5,6,8-tetrahydro-3H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | 28.3 mmol, 7.5 g | C(C)(C)(C)OC(=O)N1CC=2N=CNC(C2CC1C)=O | C13H19N3O3
reactant | triphenylphosphine | 56.5 mmol, 14.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 85 mmol, 8.2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | 1,2-DCE | 100 mL | ClCCCl | C2H4Cl2
product | (±)-4-Chloro-6-methyl-5,8-dihydro-6H-pyrido[3,4-d]pyrimidine-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2CC1C)Cl | C13H18ClN3O2
